US04009208
A mixture containing 30 g. of ethyl 4-allyloxybenzoate and 180 ml. of 10% aqueous potassium hydroxide solution was stirred and heated on a steam bath for 21/2 hours. The resulting reaction mixture was diluted with one volume of water and filtered through a sintered glass funnel. The filtrate was stirred and acidified with excess concentrated hydrochloric acid. More water was added in order to facilitate stirring. The copious white solid precipitate was collected and dried in a vacuum oven at 60° C. to produce a quantitative yield of 4-allyloxybenzoic acid, m.p. 163°-164° C.

reactant | ethyl 4-allyloxybenzoate | C(C=C)OC1=CC=C(C(=O)OCC)C=C1 | C12H14O3
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | O | H2O
product | 4-allyloxybenzoic acid | quantitative yield | C(C=C)OC1=CC=C(C(=O)O)C=C1 | C10H10O3
